US05278161
In a manner analogous to that described in Example 1, by condensing 2-hydrazino-3-propyl-5-(3-pyridyl)pyrazine with diethyl methylmalonate there is obtained ethyl rac-α-methyl-8-propyl-6-(3-pyridyl)-s-triazolo[4,3-a]pyrazine-3-acetate, MS: 339 (M)+, which by saponification analogously to Example 1 is converted into the above acid which is used directly in the next step.

reactant | 2-hydrazino-3-propyl-5-(3-pyridyl)pyrazine | N(N)C1=NC=C(N=C1CCC)C=1C=NC=CC1 | C12H15N5
reactant | diethyl methylmalonate | CC(C(=O)OCC)C(=O)OCC | C8H14O4
product | ethyl rac-α-methyl-8-propyl-6-(3-pyridyl)-s-triazolo[4,3-a]pyrazine-3-acetate | CC(C(=O)OCC)C1=NN=C2N1C=C(N=C2CCC)C=2C=NC=CC2 | C18H21N5O2
